US08183271B2
Ethyl (7E)-8-{2-[(5-phenylpentyl)oxy]phenyl}-6-{2-[4-(1H-tetrazol-5-yl)phenyl]ethyl}oct-7-enoate
A solution of 128 mg (0.24 mmol) of ethyl (7E)-6-[2-(4-cyanophenyl)ethyl]-8-{2-[(5-phenylpentyl)oxy]phenyl}oct-7-enoate in 10 ml of toluene is mixed with 0.47 ml (3.57 mmol) of trimethylsilyl azide and 88.9 mg (0.36 mmol) of di-n-butyltin oxide and heated at 80° C. for 12 hours. After cooling to room temperature, the mixture is washed with saturated sodium bicarbonate solution. The organic phase is separated off, washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the filtrate is concentrated to dryness. The resulting crude product is purified by preparative HPLC. 62 mg (0.11 mmol, 44.8% of theory) of a colorless foam are obtained.

reactant | ethyl (7E)-6-[2-(4-cyanophenyl)ethyl]-8-{2-[(5-phenylpentyl)oxy]phenyl}oct-7-enoate | 0.24 mmol, 128 mg | C(#N)C1=CC=C(C=C1)CCC(CCCCC(=O)OCC)\C=C\C1=C(C=CC=C1)OCCCCCC1=CC=CC=C1 | C36H43NO3
reactant | trimethylsilyl azide | 3.57 mmol, 0.47 ml | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | di-n-butyltin oxide | 0.36 mmol, 88.9 mg | C(CCC)[Sn](CCCC)=O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl (7E)-8-{2-[(5-phenylpentyl)oxy]phenyl}-6-{2-[4-(1H-tetrazol-5-yl)phenyl]ethyl}oct-7-enoate | C1(=CC=CC=C1)CCCCCOC1=C(C=CC=C1)/C=C/C(CCCCC(=O)OCC)CCC1=CC=C(C=C1)C1=NN=NN1 | C36H44N4O3
